US05376681
4-Acetylamino-2,3,5-trimethylphenol
A solution of potassium carbonate (27 g, 195 mmol) in water (150 ml) was added to a solution of 1-acetoxy-4-acetylamino-2,3,5-trimethylbenzene (66.0 g, 324 mmol) in methanol (300 ml) and the mixture was stirred for 1 hour under an argon atmosphere. Aqueous 1N hydrochloric acid solution was added to the reaction mixture to make the mixture weak by acid and the resulting mixture was diluted with water. Crystals precipitated were filtered, washed with water, dried and then recrystallized from ethyl acetate-isopropyl ether to obtain the desired compound (36.8 g, yield: 67.9%), m.p. 189°-190° C. (ethyl acetate-isopropyl ether). NMR (DMSO-d6) δ 1.98 (3H, s), 1.99 (6H, s) , 2.01 (3H, s), 6.50 (1H, s), 8.95 (1H, s), 9.00 (1H, s).

reactant | potassium carbonate | 195 mmol, 27 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-acetoxy-4-acetylamino-2,3,5-trimethylbenzene | 324 mmol, 66.0 g | C(C)(=O)OC1=C(C(=C(C(=C1)C)NC(C)=O)C)C | C13H17NO3
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | ethyl acetate isopropyl ether | C(C)(=O)OCC.C(C)(C)OC(C)C
solvent | water | 150 ml | O | H2O
solvent | methanol | 300 ml | CO | CH4O
product | 4-Acetylamino-2,3,5-trimethylphenol | 36.8 g, yield: 67.9% | C(C)(=O)NC1=C(C(=C(C=C1C)O)C)C | C11H15NO2
